US06506760B1
Preparation of Ethyl N-(1-Cyanoethyl)glycine (Step A)
To a suspension of glycine ethyl ester hydrochloride (3.0 g, 0.021 mol) in DCM (80 mL) was added Et3N (3.0 mL, 0.021 mol). The resulting mixture was stirred at room temperature for 10 minutes, then acetaldehyde (1.2 mL, 0.021 mol) was added, followed by the drop-wise addition of TMSCN (2.86 mL, 0.021 mol). The resulting homogeneous solution was stirred at room temperature for 18 hours, then was diluted with DCM (100 mL) and washed with brine (100 mL), dried (Na2SO4), and concentrated in vacuo. The crude mixture was purified by flash column chromatography on silica gel (7:3 EtOAc/hexane). The title compound (3.5 g, 87%) was isolated as its white, solid, hydrochloride salt. TLC Rf (free base) 0.8 (EtOAc). 1H NMR (methanol-d4) δ 1.34 (t, J=7.2 Hz, 3H), 1.73 (d, J=7.2 Hz, 3H), 4.16 (d, J=4 Hz, 2H), 4.33 (q, J=7.2 Hz, 2H), 4.70 (q, J=7.2 Hz, 1H).

reactant | glycine ethyl ester hydrochloride | 0.021 mol, 3.0 g | Cl.C(C)OC(CN)=O
reactant | Et3N | 0.021 mol, 3.0 mL | CCN(CC)CC | C6H15N
reactant | acetaldehyde | 0.021 mol, 1.2 mL | C(C)=O | C2H4O
reactant | TMSCN | 0.021 mol, 2.86 mL | [Si](C)(C)(C)C#N | C4H9NSi
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | Ethyl N-(1-Cyanoethyl)glycine | 3.5 g, 87% | C(C)N(CC(=O)O)C(C)C#N | C7H12N2O2
